US07973012B2
(2) Preparation of (1S)-1,5-anhydro-1-[5-[4-[2-[[[2-hydroxy-1,1-bis(hydroxymethyl)ethyl]aminocarbonyl]amino]ethyl]benzyl]-2-hydroxy-4-methylphenyl]-D-glucitol
To a methanol solution (600 μL) of (1S)-1,5-anhydro-2,3,4,6-tetra-O-acetyl-1-[2-acetoxy-5-[4-[2-[[[[2-hydroxy-1,1-bis(hydroxymethyl)ethyl]amino]carbonyl]amino]ethyl]benzyl]-4-methylphenyl]-D-glucitol (7.9 mg, 0.0104 mmol) was added a 2.5 wt. % methanol solution of sodium methoxide (34 μL, 0.015 mmol), and the mixture was stirred for an hour at room temperature. The solvent was evaporated under reduced pressure. Thus obtained residue was purified with silica gel column chromatography (methanol) to obtain the title compound (3.0 mg, 52%) as a colorless amorphous compound.

reactant | (1S)-1,5-anhydro-2,3,4,6-tetra-O-acetyl-1-[2-acetoxy-5-[4-[2-[[[[2-hydroxy-1,1-bis(hydroxymethyl)ethyl]amino]carbonyl]amino]ethyl]benzyl]-4-methylphenyl]-D-glucitol | 0.0104 mmol, 7.9 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=C(C=C(C(=C1)CC1=CC=C(C=C1)CCNC(=O)NC(CO)(CO)CO)C)OC(C)=O | C37H48N2O15
reactant | sodium methoxide | 0.015 mmol, 34 μL | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 600 μL | CO | CH4O
product | (1S)-1,5-anhydro-1-[5-[4-[2-[[[2-hydroxy-1,1-bis(hydroxymethyl)ethyl]aminocarbonyl]amino]ethyl]benzyl]-2-hydroxy-4-methylphenyl]-D-glucitol | 3.0 mg, 52% | OCC(CO)(CO)NC(=O)NCCC1=CC=C(CC=2C(=CC(=C(C2)[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)O)C)C=C1 | C27H38N2O10
